US09334267B2
1-(2-Fluoro-4-methyl-5-(7-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl)phenyl)-3-(2-(1-(trifluoromethyl)cyclopropyl)ethyl)urea
Treat a mixture of prop-1-en-2-yl(2-fluoro-4-methyl-5-(7-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl)phenyl)carbamate (1.09 g, 2.86 mmol) and 2-(1-(trifluoromethyl)cyclopropyl)ethanamine hydrochloride (0.542 g, 2.86 mmol) in THF (30 mL) with 1-methylpyrrolidine (1.52 mL, 14.3 mmol) and heat at 65° C. for 4 h. Cool the mixture to RT, dilute with EtOAc, wash with brine (2×), dry over MgSO4, concentrate to dryness and purify via silica gel chromatography (MeOH/EtOAc). Treat the resulting material with acetonitrile, cool to −20° C. for 2 h, collect the solids via filtration, rinse with acetonittrile (−20° C.) and dry to afford the title compound as a pale yellow solid (570 mg, 42% yield). MS (m/z): 477.2 (M+1).

reactant | prop-1-en-2-yl(2-fluoro-4-methyl-5-(7-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl)phenyl)carbamate | 2.86 mmol, 1.09 g | C=C(C)OC(NC1=C(C=C(C(=C1)C1=CC2=C(N=C(N=C2)NC)N=C1C)C)F)=O | C20H20FN5O2
reactant | 2-(1-(trifluoromethyl)cyclopropyl)ethanamine hydrochloride | 2.86 mmol, 0.542 g | Cl.FC(C1(CC1)CCN)(F)F
reactant | 1-methylpyrrolidine | 14.3 mmol, 1.52 mL | CN1CCCC1 | C5H11N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(2-Fluoro-4-methyl-5-(7-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-6-yl)phenyl)-3-(2-(1-(trifluoromethyl)cyclopropyl)ethyl)urea | 570 mg, 42% yield | FC1=C(C=C(C(=C1)C)C1=CC2=C(N=C(N=C2)NC)N=C1C)NC(=O)NCCC1(CC1)C(F)(F)F | C23H24F4N6O
